US06001839
4-Chloro-5-iodo-pyrrolo[2,3-d]-pyrimidine (5.0 g) was added under nitrogen to a mixture of sodium hydride (0.8 g of a 60% dispersion in mineral oil) in N,N-dimethylformamide (100 ml) at 0° C. and then the mixture was allowed to warm to ambient temperature. When hydrogen evolution had ceased a solution of isopropyl bromide (17 ml) in N,N-dimethylformamide (50 ml) was added dropwise. The mixture was stirred for 20 hours at ambient temperature and then quenched with water (150 ml). The mixture was extracted with ethyl acetate to give 4-chloro-5-iodo-7-isopropylpyrrolo[2,3-d]pyrimidine.

reactant | 4-Chloro-5-iodo-pyrrolo[2,3-d]-pyrimidine | 5.0 g | ClC1=C2C(NC=N1)=NC=C2I | C6H3ClIN3
reactant | sodium hydride | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | isopropyl bromide | 17 ml | C(C)(C)Br | C3H7Br
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 4-chloro-5-iodo-7-isopropylpyrrolo[2,3-d]pyrimidine | ClC=1C2=C(N=CN1)N(C=C2I)C(C)C | C9H9ClIN3
